### PR TITLE
[Merged by Bors] - feat: Equivalent characterizations of lower- and upper-semicontinuous functions

### PR DESCRIPTION
**Pull request by Blackfeather007**
We add `lowerSemicontinuousAt_iff_le_liminf`, `lowerSemicontinuous_iff_IsClosed_epigraph` and variants.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by fpvandoorn** [comment]
Thank you for your PR!

Can you generalize the codomain to an arbitrary type with a topology and a `LE`?

In the lemmas, maybe you can formulate some of them for a topological space with the order topology.

How do these definition relate to [IsClosedMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Maps.html#IsClosedMap) ? Is this condition weaker?

**Comment by Blackfeather007** [comment]
@fpvandoorn Thanks for your comment!
I'll try to generalize the codomain soon. 
Btw, could you explain "formulate some of them for a topological space with the order topology" in details? I'm a little confused.
For the 3rd point, I think there are no relations between IsClosedMap and closed function. For example, the Dirichlet function is a closed map but its epigraph is not closed. Also, considering a lower-semicontinuous but not continuous function(which is also a closed function), the image of a small close interval containing the discontinuous point is not closed.

File: ClosedFunction.lean [hunk 1]
```diff
@@ -0,0 +1,192 @@
...
+theorem closed_iff_IsClosed_sublevel {f : E → EReal} :
+    Closed f ↔ ∀ (r : EReal), IsClosed {x | f x ≤ r} :=
+  ⟨fun h => Closed.isClosed_sublevel h,
+    fun h => LowerSemicontinuous.Closed fun x => lowerSemicontinuous_of_isClosed_sublevel h x⟩
+
+/-- A function is closed if and only if it is lower semi-continuous. -/
+theorem closed_iff_LowerSemicontinuous {f : E → EReal} :
+    Closed f ↔ ∀ x, f x ≤ (liminf f <| 𝓝 x) :=
+  ⟨fun h => lowerSemicontinuous_of_isClosed_sublevel fun _ => Closed.isClosed_sublevel h _,
+    fun a => LowerSemicontinuous.Closed a⟩
```
Comment (alreadydone) [inline ClosedFunction.lean:120]: Given these equivalences, I think you don't need to introduce the defs `Closed` and `ClosedOn`; you can simply show that LowerSemicontinuous and [LowerSemicontinuousOn](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Semicontinuous.html#LowerSemicontinuousOn) are equivalent to these two notions and also equivalent to `∀ x, f x ≤ (liminf f <| 𝓝 x)` when you the target of f is a ConditionallyCompleteLattice for liminf to apply. When you need to use the `Closed` and `ClosedOn` conditions, you can just rewrite by these equivalences.

**Comment by fpvandoorn** [comment]
> Btw, could you explain "formulate some of them for a topological space with the order topology" in details? I'm a little confused.

I'm hoping some of your results hold when the codomain is a (linear?) order with the [OrderTopology](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order/Basic.html#OrderTopology). Some results will probably require some additional conditions, like [ConditionallyCompleteLattice](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/ConditionallyCompleteLattice/Basic.html#ConditionallyCompleteLattice) or [CompleteLattice](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice.html#CompleteLattice).

**Comment by fpvandoorn** [comment]
(I've changed the label on this PR. Please change it back once you've incorporated or responded to all feedback so far.)

**Comment by Blackfeather007** [comment]
Thanks for all comments! I'll revise my pr.

**Comment by Blackfeather007** [comment]
I have rearrange the original file using `List.TFAE` to organize the equivalent properties of `LowerSemicontinuous`. Also, I tried to generalize my codomain from `EReal` to `F`. But I wonder whether I put too much additional conditions on `F`.
Btw, I haven't change the file name yet. Maybe it should be merged into [https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Semicontinuous.html#](Mathlib.Topology.Semicontinuous) rather than written individually.

**Review by fpvandoorn — COMMENTED** [review]
* Please incorporate these changes in `Mathlib.Topology.Semicontinuous`
* 1 iff 4 already exists as `lowerSemicontinuous_iff_isClosed_preimage` 
* Please prove the equivalences separately. The proof of 1 iff 2 doesn't use the `OrderTopology` assumption on `F` at all, but because you prove the TFAE all at once, the current result does require it.

**Comment by Blackfeather007** [comment]
I have merged these changes into `Mathlib/Topology/Semicontinuous.lean`. Is it suitable and correct?

**Comment by jcommelin** [comment]
It seems that something has gone wrong with the merge. Currently the diff involves thousands of lines of code...

**Comment by Blackfeather007** [comment]
> It seems that something has gone wrong with the merge. Currently the diff involves thousands of lines of code...

I also found it :( So what should I do now? There are too many commits...

**Comment by fpvandoorn** [comment]
I rebased and force-pushed, which should fix it.
I can already see the correct diff here: https://github.com/leanprover-community/mathlib4/compare/ClosedFunction?expand=1
I hope that this PR will also show the correct diff, maybe the previous version is still in some cache somewhere.

**Comment by fpvandoorn** [comment]
I made a mistake, since I accidentally created a new branch `closedFunction` (no capital `c`). When I switched to this branch, just merging master fixes the issue here.

File: Mathlib/Topology/Semicontinuous.lean [hunk 2]
```diff
@@ -5,6 +5,8 @@ Authors: Sébastien Gouëzel
 -/
 import Mathlib.Algebra.IndicatorFunction
 import Mathlib.Topology.ContinuousOn
+import Mathlib.Order.LiminfLimsup
+import Mathlib.Topology.Sequences
```
Comment (fpvandoorn) [inline Mathlib/Topology/Semicontinuous.lean:9]:
```suggestion
import Mathlib.Topology.Sequences
```
The other import is already transitively import.

Note to reviewers: this doesn't import any new files transitively, so it's safe.

File: ClosedFunction.lean [hunk 3]
```diff
@@ -0,0 +1,115 @@
+/-
+Copyright (c) 2023 Wanyi He. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Author: Wanyi He
+-/
+import Mathlib.Topology.Sequences
+import Mathlib.Order.LiminfLimsup
+import Mathlib.Topology.Semicontinuous
```
Comment (fpvandoorn) [inline ClosedFunction.lean:8]: This file now contains only/mostly definitions duplicated with the version in `Semicontinuous`. Can we delete this file (potentially by moving more into `Semicontinuous`)?

File: Mathlib/Topology/Semicontinuous.lean [hunk 4]
```diff
@@ -170,6 +172,61 @@ theorem LowerSemicontinuous.lowerSemicontinuousOn (h : LowerSemicontinuous f) (s
...
+theorem lowerSemicontinuousWithinAt_iff_le_liminf {f : α → γ} :
+    LowerSemicontinuousWithinAt f s x ↔ f x ≤ (liminf f <| 𝓝[s] x) := by
+  constructor
+  · intro hf; unfold LowerSemicontinuousWithinAt at hf
+    contrapose! hf
+    obtain ⟨y,lty,ylt⟩ := exists_between hf; use y
+    exact ⟨ylt, fun h => not_le_of_lt lty
+      (Filter.le_liminf_of_le (by isBoundedDefault)
+        (Eventually.mono h (fun _ hx => le_of_lt hx)))⟩
+  exact fun hf y ylt => Filter.eventually_lt_of_lt_liminf (lt_of_lt_of_le ylt hf)
```
Comment (fpvandoorn) [inline Mathlib/Topology/Semicontinuous.lean:214]:
```suggestion
theorem lowerSemicontinuousWithinAt_iff_le_liminf {f : α → γ} :
    LowerSemicontinuousWithinAt f s x ↔ f x ≤ liminf f (𝓝[s] x) := by
  constructor
  · intro hf; unfold LowerSemicontinuousWithinAt at hf
    contrapose! hf
    obtain ⟨y, lty, ylt⟩ := exists_between hf; use y
    exact ⟨ylt, fun h => lty.not_le
      (le_liminf_of_le (by isBoundedDefault) (h.mono fun _ hx => le_of_lt hx))⟩
  exact fun hf y ylt => eventually_lt_of_lt_liminf (ylt.trans_le hf)
```
I cleaned up this proof a bit.

* Can you cleanup the statement of all other results in the same way? `f x ≤ (liminf f <| 𝓝[s] x)` is uglier than `f x ≤ liminf f (𝓝[s] x)`)
* Can you prove `lowerSemicontinuousAt_iff_le_liminf` from this version (and put this version first)? (use `lowerSemicontinuousWithinAt_univ_iff`)

File: Mathlib/Topology/Semicontinuous.lean [hunk 5]
```diff
@@ -170,6 +172,61 @@ theorem LowerSemicontinuous.lowerSemicontinuousOn (h : LowerSemicontinuous f) (s
...
+
+theorem LowerSemicontinuousWithinAt.le_liminf {f : α → γ} (hf : LowerSemicontinuousWithinAt f s x) :
+    f x ≤ (liminf f <| 𝓝[s] x) :=
+  lowerSemicontinuousWithinAt_iff_le_liminf.mp hf
+
+theorem lowerSemicontinuous_on_iff_le_liminf {f : α → γ} :
```
Comment (fpvandoorn) [inline Mathlib/Topology/Semicontinuous.lean:220]:
```suggestion
theorem lowerSemicontinuousOn_iff_le_liminf {f : α → γ} :
```

File: Mathlib/Topology/Semicontinuous.lean [hunk 6]
```diff
@@ -295,6 +352,40 @@ theorem Continuous.lowerSemicontinuous {f : α → γ} (h : Continuous f) : Lowe
...
+      _ ≤ liminf (f ∘ x) atTop := by
+        simp only [liminf_eq, liminf_eq]
+        exact sSup_le_sSup (fun _ fa => (eventually_iff_seq_eventually.mp fa) x cxy.1)
+      _ ≤ liminf (fun (n : ℕ) => (f' n).2) atTop :=
+        liminf_le_liminf (eventually_of_forall (fun n => by convert hxy n))
+      _ = y' := (cxy.2).liminf_eq
+  simp only [lowerSemicontinuous_iff_isClosed_preimage]
+  intro hf y; apply IsSeqClosed.isClosed
+  exact fun _ _ xns cx =>
+    IsClosed.isSeqClosed hf (fun n => xns n) (Tendsto.prod_mk_nhds cx tendsto_const_nhds)
```
Comment (fpvandoorn) [inline Mathlib/Topology/Semicontinuous.lean:383]: I would like to do this proof without using `IsSeqClosed`, because I believe it's true generally, not just for sequential spaces.
The backwards direction is easy to adapt:
```suggestion
  intro hf y
  exact hf.preimage (Continuous.Prod.mk_left y)
```
For the forwards direction I'm quite sure it's still true. But I want a lemma that `s` is closed iff `s` is closed under limits by an arbitrary filter. I believe this is true in an arbitrary topological space. And then we can mimick the proof done e.g. here: https://math.stackexchange.com/questions/2276334/lower-semicontinuity-and-closedness-equivalence
However, I cannot find this in the library (it's kinda the reverse of `IsClosed.mem_of_tendsto`).

@PatrickMassot, maybe you can help?

Comment (PatrickMassot) [reply Mathlib/Topology/Semicontinuous.lean:383]: Sure. Indeed it seems the relevant characterization of closed sets is mysteriously absent from Mathlib, although the very closely related `isClosed_iff_clusterPt` is there. You can put
```lean
lemma isClosed_iff_forall_filter {X : Type*} [TopologicalSpace X] {s : Set X} :
    IsClosed s ↔ ∀ x, ∀ F : Filter X, F.NeBot → F ≤ 𝓟 s → F ≤ 𝓝 x → x ∈ s := by
  rw [isClosed_iff_clusterPt]
  exact ⟨fun hs x F F_ne FS Fx ↦ hs _ <| NeBot.mono F_ne (le_inf Fx FS),
         fun hs x hx ↦ hs x (𝓝 x ⊓ 𝓟 s) hx inf_le_right inf_le_left⟩
```
somewhere close (he he) to `isClosed_iff_clusterPt`. The `F ≤ 𝓟 s → F ≤ 𝓝 x` looks a bit silly, but somehow it felt easier to read than the equivalent `F ≤ 𝓟 s ⊓ 𝓝 x` which would make the proof slightly shorter. The silly version also saves some unpacking or repacking when using the lemma.

With this lemma at hand, the theorem under discussion becomes
```lean
theorem lowerSemicontinuous_iff_IsClosed_epigraph {f : α → γ} :
    LowerSemicontinuous f ↔ IsClosed {p : α × γ | f p.1 ≤ p.2} := by
  constructor
  · rw [lowerSemicontinuous_iff_le_liminf, isClosed_iff_forall_filter]
    rintro hf ⟨x, y⟩ F F_ne h h'
    rw [nhds_prod_eq, le_prod] at h'
    calc f x ≤ liminf f (𝓝 x) := hf x
    _ ≤ liminf f (map Prod.fst F) := liminf_le_liminf_of_le h'.1
    _ ≤ liminf Prod.snd F := liminf_le_liminf <| (eventually_principal.2 fun x ↦ id).filter_mono h
    _ = y := h'.2.liminf_eq    
  · rw [lowerSemicontinuous_iff_isClosed_preimage]
    exact fun hf y ↦ hf.preimage (Continuous.Prod.mk_left y)
```
Of course one shouldn't forget to remove the useless assumption on the topology of `γ`.

Final note: before realizing they were true by definition, I thought I would need
```lean
lemma Filter.liminf_comp {α β γ : Type*} [ConditionallyCompleteLattice α] (u : β → α) (v : γ → β)
    (f : Filter γ) : liminf (u ∘ v) f = liminf u (map v f) := rfl

lemma Filter.limsup_comp {α β γ : Type*} [ConditionallyCompleteLattice α] (u : β → α) (v : γ → β)
    (f : Filter γ) : limsup (u ∘ v) f = limsup u (map v f) := rfl
```
I think those lemmas should be somewhere near the definition of limsup and liminf since otherwise people may look for them just as I did.

Comment (fpvandoorn) [reply Mathlib/Topology/Semicontinuous.lean:383]: Thanks Patrick, I PR'd your small lemmas in #8898, so this PR can use them after that PR is merged.

Comment (PatrickMassot) [reply Mathlib/Topology/Semicontinuous.lean:383]: #8898 is merged, so this PR can be rebased on master.

File: ClosedFunction.lean (hunk 3 above)
Comment (PatrickMassot) [reply ClosedFunction.lean:8]: I am very strongly in favor of deleting this file. The terminology "closed function" is super confusing since this has nothing to do with closed maps. There should be a comment in the module docstring of `Mathlib.Topology.Semicontinuous` saying something like: "in some parts of computer science, lower semi-continuous function taking values in (extended) real numbers are called closed functions" so that people who know only this weird terminology can find the relevant file. Maybe "computer science" should be replaced by "applied maths", I'm not sure where this is all coming from.

**Comment by fpvandoorn** [comment]
In order to move this PR forward, I directly pushed some commits to
* Cleanup the existing proofs and statements
* Remove the new file, since all(?) its results are now incorporated in the existing file
* Add variants for upper-semicontinuity

@Blackfeather007 is this version okay for you to merge?

**Comment by fpvandoorn** [comment]
bors merge
